US06482829B2
1-Phenyl-8-(3,4,5-trimethoxy-benzoyl)-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=426.4 (M+H+), was prepared in accordance with the general method of example 1 from 3,4,5-trimethoxybenzoyl chloride and 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one.

reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | 1-Phenyl-8-(3,4,5-trimethoxy-benzoyl)-1,3,8-triaza-spiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)=O | C23H27N3O5
